US07495006B2
A solution of 5-fluoro-1-[cis-3-(hydroxymethyl)cyclobutyl]uracil (139 mg, 0.65 mmol) and methyl pyrrolidine (530 mg, 6.2 mmol) in anhydrous CH3CN was treated dropwise with chlorotrimethylsilane (211 mg, 1.9 mmol). The mixture was aged for 1 h at ambient temperature, cooled to 0° C. and treated dropwise over 5 min. with trifluoroacetic anhydride (680 mg, 3.2 mmol). After 40 min. at 0° C. 4-nitrophenol was added to the mixture, and the mixture aged for an additional 2 h at 0° C. The mixture was poured into saturated sodium bicarbonate solution (20 mL) and extracted with CH2Cl2 (3×40 mL). Combined organic phases were dried over magnesium sulfate and then concentrated. The residue was dissolved in dioxane (10 mL) and 30% aqueous NH4OH (2.5 mL) and heated at 50° C. for 40 h in a sealed vessel. The mixture was cooled to ambient temperature and concentrated under vacuum. The resulting residue was purified by chromatography on silica gel with 10% CH3OH in CH2Cl2 with 1% NH4OH (v/v) to give 5-fluoro-1-[cis-3-(hydroxymethyl)-cyclobutyl]cytosine (53 mg, 38%) as a white solid and recovered starting material (50 mg). 1H NMR (DMSO-d6, 400 MHz): δ 1.89 (m, 2H), 2.09 (m, 1H), 2.24 (m, 2H), 3.39 (d, J=5.1 Hz, 2H), 4.56(broad s, 1H, OH), 4.64 (m, 1H), 7.36 (broad s, 1H, NH2), 7.58 (broad s, 1H, NH2), 7.97 (d, J=7.2 Hz, 1H); MS (FAB): expected for C9H12FN3O2 (M+Li)+220.2. Found 220.19.

reactant | 5-fluoro-1-[cis-3-(hydroxymethyl)cyclobutyl]uracil | 0.65 mmol, 139 mg | FC=1C(NC(N(C1)[C@@H]1C[C@@H](C1)CO)=O)=O | C9H11FN2O3
reactant | methyl pyrrolidine | 6.2 mmol, 530 mg | CN1CCCC1 | C5H11N
reactant | chlorotrimethylsilane | 1.9 mmol, 211 mg | Cl[Si](C)(C)C | C3H9ClSi
reactant | trifluoroacetic anhydride | 3.2 mmol, 680 mg | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 4-nitrophenol | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | sodium bicarbonate | 20 mL | C([O-])(O)=O.[Na+]
solvent | CH3CN | CC#N | C2H3N
product | 5-fluoro-1-[cis-3-(hydroxymethyl)-cyclobutyl]cytosine | 53 mg, 38% | FC=1C(=NC(N(C1)[C@@H]1C[C@@H](C1)CO)=O)N | C9H12FN3O2
